US05645985
2-Trimethylstannylthiophene.
To a solution of thiophene (2.1 g, 25.0 mmol) in anhydrous THF (50 mL) was added dropwise over 30 minutes at -38 C. t-butyllithium in pentane (1.6M, 16.0 mL, 25.6 mmol). The solution was stirred for 1 h at -38 C. and then cooled to -78 C. Trimethyltin chloride in THF (1M, 25.3 mL, 25.3 mmol) was added dropwise over 30 min. The reaction was then stirred for 2 h at-78 C. and then for 15 h at r.t. The solvent was evaporated and the resulting yellow solid was taken up in ether, washed with water and dried Na2SO4 and then evaporated to give a light brown liquid which solidified on standing.

reactant | thiophene | 25.0 mmol, 2.1 g | S1C=CC=C1 | C4H4S
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 25.6 mmol, 1.6M, 16.0 mL | CCCCC | C5H12
reactant | Trimethyltin chloride | C[Sn](C)(C)Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25.3 mmol, 1M, 25.3 mL | C1CCOC1 | C4H8O
product | 2-Trimethylstannylthiophene | C[Sn](C=1SC=CC1)(C)C | InChI=1S/C4H3S.3CH3.Sn/c1-2-4-5-3-1;;;;/h1-3H;3*1H3;
